US08912224B2
To a suspension of 2-((S)-2-o-tolyl-chroman-6-yloxy)-thiazole-5-carboxylic acid (2-hydroxy-ethyl)-amide (1 g, 2.44 mmol) and tetrazole (222 mg, 3.17 mmol, 1.3 eq) in dichloromethane (14 ml) and acetonitrile (14 ml) at 0° C., dibenzyl-N,N-diisopropylphosphoramidite (1.01 g, 2.92 mmol, 1.2 eq) was added and the mixture stirred at 0° C. for 70 min. To the resulting solution 3-chloro-perbenzoic acid (65%, 776 mg, 2.92 mmol, 1.2 eq) was added in one portion and vigorous stirring at 0° C. was continued for 10 min. The mixture was diluted with dichloromethane and the organic layer washed with a saturated aqueous solution of sodium hydrogencarbonate and subsequently with a saturated aqueous solution of ammonium chloride. The combined organic layers were dried over sodium sulfate and filtered, and the solvent removed under reduced pressure. The crude product was purified by column chromatography (silica gel, ethyl acetate). Phosphoric acid dibenzyl ester 2-{[2-((S)-2-o-tolyl-chroman-6-yloxy)-thiazole-5-carbonyl]-amino}-ethyl ester was obtained as a colorless oil (1.30 g, 80%).

reactant | 2-((S)-2-o-tolyl-chroman-6-yloxy)-thiazole-5-carboxylic acid (2-hydroxy-ethyl)-amide | 2.44 mmol, 1 g | OCCNC(=O)C1=CN=C(S1)OC=1C=C2CC[C@H](OC2=CC1)C1=C(C=CC=C1)C | C22H22N2O4S
reactant | tetrazole | 3.17 mmol, 222 mg, 1.3 eq | N1N=NN=C1 | CH2N4
reactant | dibenzyl-N,N-diisopropylphosphoramidite | 2.92 mmol, 1.01 g, 1.2 eq | C(C1=CC=CC=C1)OP(OCC1=CC=CC=C1)N(C(C)C)C(C)C | C20H28NO2P
reactant | 3-chloro-perbenzoic acid | 2.92 mmol, 776 mg, 1.2 eq | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 14 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 14 ml | C(C)#N | C2H3N
product | Phosphoric acid dibenzyl ester 2-{[2-((S)-2-o-tolyl-chroman-6-yloxy)-thiazole-5-carbonyl]-amino}-ethyl ester | C1(=C(C=CC=C1)[C@H]1OC2=CC=C(C=C2CC1)OC=1SC(=CN1)C(=O)NCCOP(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O)C | C36H35N2O7PS
